US06423704B1
Treat a solution of 4-[1-(4,4,4-trifluoro-butyl)-1H-benzoimidazol-2-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester (1.80 g, 4.22 mmol) and methanol (15 mL) at 0° C. with 57% hydroiodic acid (3.79 g, 16.9 mmol). Stir at room temperature for 30 minutes, heat to 50° C. for two hours and then stir at room temperature overnight. Thin layer analysis (silica gel, ethyl acetate) indicates the presence of starting material. Add 57% hydroiodic acid (1.12 mL) and heat at 50° C. for two hours. Concentrate in vacuo to remove the methanol, dissolve the residue in methanol (10 mL) and add ether (total of 200 mL) to afford a white tacky precipitate. Decant the supernatant, add ether (200 mL) and stir to afford a cream colored solid. Collect the solid by vacuum filtration under nitrogen and dry in vacuo at 82° C. (0.2 Torr) overnight to afford 2.25 g of 2-[1,4]diazepan-1-yl-1-(4,4,4-trifluoro-butyl)-1H-benzoimidazole dihydroiodide, m.p. 206-208° C. Elemental Analysis: Calculated for C16H21F3N4.2HI: 33.01%C, 3.98%H, 9.62%N; Found 33.15%C, 3.87%H, 9.41%N.

reactant | 4-[1-(4,4,4-trifluoro-butyl)-1H-benzoimidazol-2-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 4.22 mmol, 1.80 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCCC(F)(F)F)C=CC=C2 | C21H29F3N4O2
reactant | methanol | 15 mL | CO | CH4O
reactant | hydroiodic acid | 16.9 mmol, 3.79 g | I | HI
reactant | hydroiodic acid | 1.12 mL | I | HI
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[1,4]diazepan-1-yl-1-(4,4,4-trifluoro-butyl)-1H-benzoimidazole dihydroiodide | 2.25 g | I.I.N1(CCNCCC1)C1=NC2=C(N1CCCC(F)(F)F)C=CC=C2 | InChI=1S/C16H21F3N4.2HI/c17-16(18,19)7-3-11-23-14-6-2-1-5-13(14)21-15(23)22-10-4-8-20-9-12-22;;/h1-2,5-6,20H,3-4,7-12H2;2*1H
